US05831125
Synthesis of (2S,3R)-2-octadecanoylaminooctadecane-1,3-diol
Into a 100 ml four-neck flask equipped with a stirrer, dropping funnel and thermometer were placed 50 mg of commercially available 85% potassium hydroxide and 1.5 g (5 mmol) of (2S,3R)-2-aminooctadecane-1,3-diol. The mixture was heated while stirring to 90° C. for 30 minutes. While introducing nitrogen into the reaction system, 2.24 g (7.5 mmol) of methyl stearate (methyl octadecanoate) was then added dropwise. After a period of 30 minutes, stirring was stopped due to precipitation of a crystalline product. Ethanol was added to the reactor to recrystallize the product. The yield of the resulting (2S,3R)-2-octadecanoylaminooctadecane-1,3-diol was 56% (1.59 g).

reactant | potassium hydroxide | [OH-].[K+]
reactant | (2S,3R)-2-aminooctadecane-1,3-diol | 5 mmol, 1.5 g | N[C@@H](CO)[C@@H](CCCCCCCCCCCCCCC)O | C18H39NO2
reactant | methyl stearate (methyl octadecanoate) | 7.5 mmol, 2.24 g | CC(C(=O)O)CCCCCCCCCCCCCCCC.C(CCCCCCCCCCCCCCCCC)(=O)OC | 2C19H38O2
product | (2S,3R)-2-octadecanoylaminooctadecane-1,3-diol | C(CCCCCCCCCCCCCCCCC)(=O)N[C@@H](CO)[C@@H](CCCCCCCCCCCCCCC)O | C36H73NO3
